US09447090B2
To a solution of 1.44 g of tert-butyl 4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)piperidine-1-carboxylate in 15 ml of ethyl acetate was added 3.8 ml of a 4 M hydrogen chloride/ethyl acetate solution, followed by stirring for 1 day. The reaction mixture was concentrated under reduced pressure, and to the obtained residue were added ethyl acetate and ethanol. The resulting solid was collected by filtration and dried to obtain 1.29 g of 8-(cyclohexylmethoxy)-2-methyl-N-(piperidin-4-yl)imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride.

reactant | tert-butyl 4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)piperidine-1-carboxylate | 1.44 g | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C26H38N4O4
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 8-(cyclohexylmethoxy)-2-methyl-N-(piperidin-4-yl)imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 1.29 g | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NC2CCNCC2 | InChI=1S/C21H30N4O2.2ClH/c1-15-19(21(26)24-17-9-11-22-12-10-17)25-13-5-8-18(20(25)23-15)27-14-16-6-3-2-4-7-16;;/h5,8,13,16-17,22H,2-4,6-7,9-12,14H2,1H3,(H,24,26);2*1H
